US07098212B2
4-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-ylamino)-butyric acid
To a solution of 4-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-ylamino)-butyric acid ethyl ester (0.034 g, 0.065 mmol) in 2:2:1 methanol:tetrahydrofuran:water (1 mL) was added lithium hydroxide monohydrate (0.010 g, 0.24 mmol). The reaction was stirred at ambient temperature for 3 hours. The pH of the solution was adjusted to ˜4 by the addition of 0.2 M hydrochloric acid, then diluted with brine and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The product was purified by anion exchange chromatography to give the title compound as its acetic acid addition salt (0.020 g, LRMS: 493.1, 495.3)

reactant | 4-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-ylamino)-butyric acid ethyl ester | 0.065 mmol, 0.034 g | C(C)OC(CCCNC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C26H34ClFN4O4
reactant | methanol | CO | CH4O
reactant | lithium hydroxide monohydrate | 0.24 mmol, 0.010 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 0.2 M | Cl | ClH
solvent | brine | [Cl-].[Na+].O
solvent | water | 1 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-ylamino)-butyric acid | ClC=1C=C(C(=NC1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)NCCCC(=O)O | C24H30ClFN4O4
